US06686363B2
To a suspension of sodium hydride (60% oil dispersion, 6.13 g) in dimethyl sulfoxide (100 mL) was added ethyl cyanoacetate (18.0 g) at 0° C., and the mixture was stirred at room temperature for 2 hours. 2-Methyl-4-nitrofluorobenzene (9.15 g) was added to the mixture, and the resulting solution was stirred at room temperature for 12 hours. After quenching the reaction by the addition of 6 N hydrochloric acid at 0° C., and the mixture was extracted with ether. The ethereal solution was washed with brine, dried over anhydrous magnesium sulfate, filtered, and then concentrated in vacuo to give ethyl (2-methyl-4-nitrophenyl)cyanoacetate. A solution of crude ethyl (2-methyl-4-nitrophenyl)cyanoacetate thus obtained in dioxane (200 mL) and 6 N hydrochloric acid (200 mL) was heated at 100° C. for 12 hours. After dilution of the mixture with water and sodium chloride, the mixture was extracted with ethyl acetate. The organic extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered, and then concentrated in vacuo. Flash chromatography (silica, hexane:ethyl acetate=2:1) of the residue gave (2-methyl-4-nitrophenyl)acetonitrile (5.32 g).

reactant | sodium hydride | 6.13 g | [H-].[Na+]
reactant | ethyl cyanoacetate | 18.0 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 2-Methyl-4-nitrofluorobenzene | 9.15 g | CC1=C(C=CC(=C1)[N+](=O)[O-])F | C7H6FNO2
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
product | ethyl (2-methyl-4-nitrophenyl)cyanoacetate | CC1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)OCC)C#N | C12H12N2O4
